US07700622B2
A. 4-Bromo-2-(4-methoxy-benzylamino)-benzonitrile
A solution of 5-bromo-2-fluorobenzonitrile (3 g), 4-methoxybenzylamine (2.2 g), and triethyl amine (3 ml) in DMSO (5 ml) was heated at 120° C. for 5 h. The solution was partitioned between water and ethyl acetate. The combined organic extract was washed with brine, dried over Na2SO4 and concentrated. The residue was chromatographed to give the desired product (2.6 g, 81%) HPLC (6 minute gradient) tR=4.33 min; MS m/z 315.09, 317.08 (M+H]+

reactant | 5-bromo-2-fluorobenzonitrile | 3 g | BrC=1C=CC(=C(C#N)C1)F | C7H3BrFN
reactant | 4-methoxybenzylamine | 2.2 g | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | triethyl amine | 3 ml | C(C)N(CC)CC | C6H15N
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
product | 4-Bromo-2-(4-methoxy-benzylamino)-benzonitrile | 2.6 g, 81% | BrC1=CC(=C(C#N)C=C1)NCC1=CC=C(C=C1)OC | C15H13BrN2O
